US06906067B2
5-Methyl-6-nitro-2,3-dihydro-isoindol-1-one
5-Methyl-2,3-dihydro-isoindol-1-one (1.00 g, 6.79 mmol) was taken up in sulfuric acid and cooled to 0° C. One equivalent of nitric acid was added to the solution and the mixture was allowed to slowly warm to room temp and stir for 12 h. The reaction mixture was poured into ice water and the aqueous layer was extracted four times with ethyl acetate and the combined organic layers were washed with water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. Two products were isolated by flash chromatography. (10% methanol-ethyl acetate) Yield 813.40 mg of the 4-nitro and 100 mg of the 6-nitro. 1H NMR (300 MHz, d6-DMSO): 4-nitro δ 7.76 (s, 1H), 8.19 (s, 1H), 8.98 (bs, 1H); 6-nitro δ 7.69 (d, J=9 Hz, 1H), 7.84 (d, J=9 Hz), 8.91 (bs, 1H).

reactant | 5-Methyl-2,3-dihydro-isoindol-1-one | 6.79 mmol, 1.00 g | CC=1C=C2CNC(C2=CC1)=O | C9H9NO
reactant | nitric acid | One equivalent | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-Methyl-6-nitro-2,3-dihydro-isoindol-1-one | CC=1C=C2CNC(C2=CC1[N+](=O)[O-])=O | C9H8N2O3
